US08193228B2
N-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-methanesulfonamide
Hydrogen chloride (4N, 2 mL) in dioxane was added to a solution of N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methanesulfonamide in methanol (4 mL) at ambient temperature. The solution was stirred at 50° C. for 2 hr. Concentration of the solution afforded the title compound as a white solid. 1H NMR (500 MHz, CD3OD) δ 8.51 (d, J=2.5 Hz, 1H), 8.00 (d, J=8.0 Hz, 2H), 7.91 (dd, J=4.2, 8.7 Hz, 1H), 7.67 (td, J=3.0, 8.5 Hz, 1H), 7.52 (d, J=8.0 Hz, 2H), 7.13 (s, 1H), 4.95 (t, J=8.1 Hz, 1H), 3.59 (dd, J=8.1, 14.8 Hz, 1H), 3.41 (dd, J=8.1, 14.8 Hz, 1H), 2.66 (s, 3H), 2.48 (dd, J=14.7, 19.7 Hz, 2H), 1.96 (s, 3H), 1.20 (q, J=7.2, 14.7 Hz, 2H), 0.83 (t, J=7.2 Hz, 3H), 0.79 (s, 3H), 0.79 (s, 3H).

reactant | Hydrogen chloride | 4N, 2 mL | Cl | ClH
reactant | N-{2-[4-(2,2-dimethylbutyl)-1-trityl-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}methanesulfonamide | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NS(=O)(=O)C)(CC)C | C42H43FN4O2S
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
product | N-{2-[4-(2,2-dimethylbutyl)-1H-imidazol-2-yl]-1-[4-(5-fluoropyridin-2-yl)phenyl]ethyl}-methanesulfonamide | CC(CC=1N=C(NC1)CC(C1=CC=C(C=C1)C1=NC=C(C=C1)F)NS(=O)(=O)C)(CC)C | C23H29FN4O2S
